US04733002
Preparation of caffeic acid hexylamide
To 5 ml of tetrahydrofuran containing 180 mg of caffeic acid were added 206 mg of dicyclohexyl carbodiimide and 101 mg of hexylamine. The mixture was stirred at 50° C. for 7 hours and then the reaction mixture was filtrated. The filtrate was concentrated and purified by means of column chromatography (silica gel/hexane:ethyl acetate=1:1). After recrystallization from ethyl acetate/hexane, 100 mg of white crystals was obtained.

reactant | caffeic acid | C(\C=C\C1=CC(O)=C(O)C=C1)(=O)O | C9H8O4
reactant | dicyclohexyl carbodiimide | 206 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | hexylamine | 101 mg | C(CCCCC)N | C6H15N
solvent | tetrahydrofuran | 5 ml, 180 mg | O1CCCC1 | C4H8O
product | caffeic acid hexylamide | 100 mg | C(CCCCC)NC(\C=C\C1=CC(O)=C(O)C=C1)=O | C15H21NO3
